US05756510
2-t-butylbenzoxazole-4-carboxamide (Compound NU1040)
Methyl 2-t-butyl-4-benzoxazole carboxylate (0.1 g; 0.46 mmol) was dissolved in methanol (5 ml), and to this was added aqueous ammonia (5 ml). The mixture was warmed to 40° C. and left to stir for 6 hours at ambient temperature. Once the reaction was complete the solvent was removed under reduced pressure and the product was recrystallised from boiling ethyl acetate and petrol (73%).

reactant | Methyl 2-t-butyl-4-benzoxazole carboxylate | 0.46 mmol, 0.1 g | C(C)(C)(C)C=1OC=2C(N1)=C(C=CC2)C(=O)OC | C13H15NO3
reactant | ammonia | 5 ml | N | H3N
solvent | methanol | 5 ml | CO | CH4O
product | 2-t-butylbenzoxazole-4-carboxamide | C(C)(C)(C)C=1OC=2C(N1)=C(C=CC2)C(=O)N | C12H14N2O2
